US07056918B2
5-(2-Amino-1-hydroxy-2-m-tolyl-ethyl)-1-cyclopentyl-3-methyl-1,3-dihydro-benzoimidazol-2-one hydrochloride
1-(1-Cyclopentyl-3-methyl-2-oxo-2,3-dihydro-1H-benzoimidazol-5-yl)-2-m-tolyl-ethane-1,2-dione 2-oxime (5 gm, 13.2 mmol) was dissolved in ethanol (300 mL) in a Parr bottle. Concentrated HCl (3.3 mL, 40 mmol) was added, followed by 10% Pd on carbon (approximately 0.5 gm). The resulting mixture was placed on a Parr hydrogenation apparatus and hydrogenated at a hydrogen pressure of 40 psi. Hydrogen consumption slowed considerably after 3 hours, with the amino ketone being formed initially. Hydrogenation was continued overnight, after which time the reaction was determined to be complete. The mixture was filtered through a celite plug and the filtrate was concentrated in vacuo to afford a viscous yellow oil, which was triturated/repulped in diethyl ether to afford 4.90 gm of a white solid.

reactant | 1-(1-Cyclopentyl-3-methyl-2-oxo-2,3-dihydro-1H-benzoimidazol-5-yl)-2-m-tolyl-ethane-1,2-dione 2-oxime | 13.2 mmol, 5 gm | C1(CCCC1)N1C(N(C2=C1C=CC(=C2)C(C(=NO)C=2C=C(C=CC2)C)=O)C)=O | C22H23N3O3
reactant | HCl | 40 mmol, 3.3 mL | Cl | ClH
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 300 mL | C(C)O | C2H6O
solvent | diethyl ether | C(C)OCC | C4H10O
catalyst | Pd on carbon | approximately 0.5 gm | [Pd] | Pd
product | 5-(2-Amino-1-hydroxy-2-m-tolyl-ethyl)-1-cyclopentyl-3-methyl-1,3-dihydro-benzoimidazol-2-one hydrochloride | 4.90 gm | Cl.NC(C(O)C1=CC2=C(N(C(N2C)=O)C2CCCC2)C=C1)C=1C=C(C=CC1)C | InChI=1S/C22H27N3O2.ClH/c1-14-6-5-7-15(12-14)20(23)21(26)16-10-11-18-19(13-16)24(2)22(27)25(18)17-8-3-4-9-17;/h5-7,10-13,17,20-21,26H,3-4,8-9,23H2,1-2H3;1H
